data/rdb19/train.csv
rxn,smiles,ea
3212,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[O:25][C:26]([H:32])([H:33])[H:34])([H:30])[H:31])([H:27])([H:28])[H:29]>>[C:1]([H:7])([H:8])([H:9])[H:31].[C:21]([C:22](=[C:23]([H:24])[O:25][C:26]([H:32])([H:33])[H:34])[H:30])([H:27])([H:28])[H:29].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11],83.29843424464343
4439,[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])([C:17]([H:18])[H:19])[H:23])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([O:14][C:15]([C:16]([H:24])([H:25])[H:26])=[C:17]([H:18])[H:19])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:10])([H:11])[H:23])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9],32.202121874084696
21,[C:12]([C:13]([O:14][C:15](=[O:16])[C:17]([C:18]([H:27])([H:28])[H:29])([C:19]([C:20]([H:32])([H:33])[H:34])([H:30])[H:31])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:18]([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:17]([C:15]([O:14][C:13]([C:12]([H:21])([H:22])[H:23])([H:24])[H:25])=[O:16])([C:19]([C:20]([H:32])([H:33])[H:34])([H:30])[H:31])[H:26])([H:6])([H:7])[H:8],72.29536058055237
1130,[C:14](=[C:15]([N:16]([C:17](=[O:18])[H:23])[H:22])[H:21])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14](=[C:15][N:16]([C:17](=[O:18])[H:23])[H:22])([H:19])[H:20].[C:1]([C:2]([C:3]([H:4])([H:5])[H:21])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],25.087890038790647
2029,[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:18]([C:15]([C:13]([O:12][C:11]([H:21])([H:22])[H:23])=[O:14])([C:16]([H:24])([H:25])[H:26])[C:17]([H:27])([H:28])[H:29])([H:19])[H:20])([H:6])[H:7]>>[C:2](=[O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[C:18]([C:15]([C:13]([O:12][C:11]([H:21])([H:22])[H:23])=[O:14])([C:16]([H:24])([H:25])[H:26])[C:17]([H:27])([H:28])[H:29])([H:19])[H:20].[N:1]([H:6])[H:7],12.26940683851717
5211,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37])([H:35])[H:36])([H:32])([H:33])[H:34]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([C:5]1=[C:6]([H:20])[C:7]([H:21])[C:8]([H:22])([C:27]([C:26]([C:25]([H:32])([H:33])[H:34])([H:35])[H:36])([H:28])[N:29]([C:30](=[O:31])[H:38])[H:37])[C:9]([H:23])=[C:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13],21.580773186171427
1884,[C:11]([C:12]([C:13]([H:19])([H:20])[H:21])[C:14]#[N:15])([H:16])([H:17])[H:18].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11](=[C:12]([C:13]([H:19])([H:20])[H:21])[C:14]#[N:15])([H:17])[H:18].[N:1]([C:2]([O:3])([C:4](=[C:5]([H:9])[H:10])[H:8])[H:16])([H:6])[H:7],60.221529601491056
56,[C:12]([C:13]([O:14][C:15](=[O:16])[C:17](=[C:18]([H:25])[H:26])[H:24])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([H:22])[H:23])([H:19])([H:20])[H:21].[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][O:14][C:15](=[O:16])[C:17](=[C:18]([H:25])[H:26])[H:24],73.19900448922999
3603,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:20]([H:33])([H:34])[H:35],68.42951229558093
2217,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:1]([C:2]([H:3])([H:4])[H:27])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])[H:26])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19],21.810638633265626
12,[C:12]([C:13]([C:14]([C:15]([H:24])([H:25])[H:26])([C:16]([C:17]([H:29])([H:30])[H:31])([H:27])[H:28])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12]([C:13]([C:14]([C:15]([H:24])([H:25])[H:26])([C:16]([H:27])[H:28])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20].[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:17]([H:29])([H:30])[H:31],85.1856501591974
